US05840917
3-Thiophenecarboxylic acid (3.48 g) was dissolved in tetrahydrofuran (50 ml), and N,N,N',N'-tetramethylethylenediamine (10 ml) was added. The mixture was cooled to -78° C., and n-butyllithium (1.6M in hexane, 41.3 ml) was slowly added dropwise. The mixture was stirred at the same temperature for 1 hour, and N,N-dimethylformamide (4.6 ml) was added dropwise. The mixture was warmed to room temperature and stirred for 15 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give a mixture of 2-formyl-3-thiophenecarboxylic acid and 5-formyl-3-thiophenecarboxylic acid (2.11 g). This mixture was dissolved in N,N-dimethylformamide (30 ml), and iodoethane (0.95 ml) and potassium carbonate (1.66 g) were added. The reaction mixture was stirred at room temperature for 15 hours, poured into water and extracted with diethyl ether. The extract was washed with 5% aqueous potassium hydrogen sulfate, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the desired fractions were concentrated under reduced pressure to give 2-formyl-3-thiophenecarboxylic acid ethyl ester (1.75 g). 2-Formyl-3-thiophenecarboxylic acid ethyl ester (1.66 g) in methylene chloride (20 ml) was slowly added dropwise to diethylaminosulfur trifluoride (DAST) (1.32 ml) in methylene chloride (10 ml) at room temperature. The mixture was stirred at room temperature for 15 hours, and saturated aqueous sodium bicarbonate was added. The organic layer was collected, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2-difluoromethyl-3-thiophenecarboxylic acid ethyl ester (1.08 g). 2-Difluoromethyl-3-thiophenecarboxylic acid ethyl ester was dissolved in a mixture of ethanol (10 ml) and tetrahydrofuran (10 ml), and 1N aqueous sodium hydroxide (7.8 ml) was added. The mixture was stirred at room temperature for 1 hour and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2-difluoromethyl-3-thiophenecarboxylic acid (0.88 g) as crystals.

reactant | 3-Thiophenecarboxylic acid | 3.48 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | N,N,N',N'-tetramethylethylenediamine | 10 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 41.3 ml | C(CCC)[Li]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 2-formyl-3-thiophenecarboxylic acid | C(=O)C=1SC=CC1C(=O)O | C6H4O3S
reactant | 5-formyl-3-thiophenecarboxylic acid | 2.11 g | C(=O)C1=CC(=CS1)C(=O)O | C6H4O3S
reactant | iodoethane | 0.95 ml | ICC | C2H5I
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 4.6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-formyl-3-thiophenecarboxylic acid ethyl ester | 1.75 g | C(C)OC(=O)C1=C(SC=C1)C=O | C8H8O3S
